Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Morbid obesity
 
Major Surgical or Invasive Procedure:
___: laparoscopic sleeve gastrectomy

 
History of Present Illness:
___ has class III morbid obesity with weight of 300.1 pounds as 
of ___ with her initial screen weight of 303.7 pounds on 
___, height 68 inches and BMI of 45.6.  Her previous weight 
loss efforts include Weight Watchers on/off for ___ months at a 
time, the ___ diet for ___iet, 
prescription weight loss medication phentermine, 
over-the-counter dietary
supplements such as Dexatrim and "Skinny Rules" a book by ___ 
___ detail and meal plans.  She has been able to lose up to 
50 pounds in her previous weight loss efforts but she has failed 
to produce significant and/or lasting results.  She stated that 
her lowest adult weight was 190 pounds at the age of ___ and 
her highest weight was 332 pounds last fall.  She stated that 
she has been struggling with weight since her ___ and cites as 
factors contributing to her excess weight genetics, too many 
carbohydrates, late-night eating, grazing, convenience eating 
and lack of exercise.  She does try to walk for 30 minutes twice 
a day and has begun using elliptical 30 minutes ___ times per 
week.
She denied history of eating disorders - no anorexia, bulimia, 
diuretic or laxative abuse and she denied binge eating.  She 
does have depression/anxiety and is not currently seeing a 
therapist, she has not been hospitalized for mental health 
issues and she is on psychotropic medications (sertraline, 
trazodone).

 
Past Medical History:
1)  vitamin D deficiency
2)  morbid obesity
3)  heartburn associated with food

Her surgeries include:

1)  right ankle fracture repair with metal plates/screws in ___
2)  PE tubes as a child

 
Social History:
___
Family History:
Family history is noted for father deceased before her birth; 
mother living age ___ alive and well; 2 sisters ages ___ and ___ 
both alive and well.

 
Physical Exam:
Per resident:
VS: 24 HR Data (last updated ___ @ 545)
Temp: 98.3 (Tm 98.6), BP: 125/85 (117-142/79-87), HR: 90
(86-101), RR: 18 (___), O2 sat: 97% (92-97), O2 delivery: 2l  
GEN: A&Ox3, NAD, resting comfortably 
HEENT: NCAT, EOMI, sclera anicteric
CV: RRR
PULM: no respiratory distress
ABD: soft, appropriately tender, ND, no rebound or guarding 
EXT: warm, well-perfused, no edema 
PSYCH: normal insight, memory, and mood
WOUND(S): Incision c/d/i
DRAIN(S):

Addendum: 02 sat 94-96%RA prior to discharge, breathing even 
spontaneous, non-labored
 
Pertinent Results:
___ 04:58AM BLOOD Hct-37.6
___ 10:26AM BLOOD Hct-37.0
 
Brief Hospital Course:
The patient presented to pre-op on ___. Patient was 
evaluated by anaesthesia and surgery and then taken to the 
operating room where she underwent a laparoscopic sleeve 
gastrectomy for obesity. There were no adverse events in the 
operating room; please see the operative note for details. Pt 
was extubated, taken to the PACU until stable, then transferred 
to the ward for observation.  
 Neuro: The patient was alert and oriented throughout 
hospitalization; pain was initially managed with a PCA, however 
this was discontinued due to nausea. Pain was very well 
controlled. The patient was then transitioned to crushed oral 
pain medication once tolerating a stage 3 diet.  
 CV: The patient remained stable from a cardiovascular 
standpoint; vital signs were routinely monitored.  
 Pulmonary: The patient remained stable from a pulmonary 
standpoint; vital signs were routinely monitored. Good pulmonary 
toilet, early ambulation and incentive spirometry were 
encouraged throughout hospitalization.  She was weaned from 
supplemental oxygen on POD2.
 GI/GU/FEN: The patient was initially kept NPO. Afterwards, the 
patient was started on a stage 1 bariatric diet, which the 
patient tolerated well. Subsequently, the patient was advanced 
to stage 2, and then stage 3 diet which the patient was 
tolerating on day of discharge.  
 ID: The patient's fever curves were closely watched for signs 
of infection, of which there were none.  
 HEME: The patient's blood counts were closely watched for signs 
of bleeding, of which there were none.  
 Prophylaxis: The patient received subcutaneous heparin and ___ 
dyne boots were used during this stay and was encouraged to get 
up and ambulate as early as possible.  
 At the time of discharge, the patient was doing well, afebrile 
and hemodynamically stable. The patient was tolerating a 
bariatric stage 3 diet, ambulating, voiding without assistance, 
and pain was well controlled. The patient received discharge 
teaching and follow-up instructions with understanding 
verbalized and agreement with the discharge plan.  

 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. QUEtiapine Fumarate 12.5 mg PO QHS 
2. Multivitamins 1 TAB PO DAILY 
3. Sertraline 100 mg PO DAILY 

 
Discharge Medications:
1.  Acetaminophen (Liquid) 650 mg PO Q6H:PRN Pain - Mild 
RX *acetaminophen 650 mg/20.3 mL 20 ml by mouth every six (6) 
hours Disp #*300 Milliliter Refills:*0 
2.  Docusate Sodium 100 mg PO BID:PRN constipation 
RX *docusate sodium 50 mg/5 mL 10 ml by mouth twice a day 
Refills:*0 
3.  Famotidine 20 mg PO BID 
RX *famotidine 20 mg 1 tablet(s) by mouth twice a day Disp #*60 
Tablet Refills:*0 
4.  OxycoDONE Liquid 5 mg PO Q6H:PRN Pain - Moderate 
RX *oxycodone 5 mg/5 mL 5 mg by mouth every six (6) hours 
Refills:*0 
5.  Multivitamins 1 TAB PO DAILY  
6.  Sertraline 100 mg PO DAILY  
7. HELD- QUEtiapine Fumarate 12.5 mg PO QHS  This medication was 
held. Do not restart QUEtiapine Fumarate until you no longer 
taking oxycodone. Please notify your primary care provider of 
this medication change immediately.

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Morbid obesity

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Followup Instructions:
___